US09403797B2
40% Methylamine in water (0.847 mL, 9.78 mmol) was added slowly over 5 minutes at 0° C. to a solution of methyl 4,6-dichloronicotinate (0.40 g, 1.94 mmol) in MeCN (6 mL). The solution was stirred at 0° C. for 30 minutes then at room temperature for 2 hours. The reaction mixture was concentrated in vacuo onto silica gel. Gradient chromatography, eluting with 5% EtOAc:c-Hex over 5 column volume and 5-50% over 15 column volume, gave methyl 6-chloro-4-(methylamino)nicotinate (278 mg, 1.386 mmol, 71.4% yield) as a white solid.

reactant | Methylamine | CN | CH5N
reactant | water | 9.78 mmol, 0.847 mL | O | H2O
reactant | methyl 4,6-dichloronicotinate | 1.94 mmol, 0.40 g | ClC1=CC(=NC=C1C(=O)OC)Cl | C7H5Cl2NO2
solvent | MeCN | 6 mL | CC#N | C2H3N
product | methyl 6-chloro-4-(methylamino)nicotinate | 1.386 mmol, 278 mg, 71.4% yield | ClC1=NC=C(C(=O)OC)C(=C1)NC | C8H9ClN2O2
